US05756784
Into a four-necked flask containing ethylenediamine (3 g, 0.05 mol) and water (50 g), propanesultone (12.3 g, 0.1 mol) was added dropwise over 30 minutes. The contents were mixed for 2 hours, after which ethanol was added thereto. The mixture was subjected to filtration and then was washed with ethanol to obtain 13.5 g of N,N'-bis(3-sulfopropyl)ethylenediamine (separation yield: 88 wt %).

reactant | ethylenediamine | 0.05 mol, 3 g | C(CN)N | C2H8N2
reactant | water | 50 g | O | H2O
reactant | propanesultone | 0.1 mol, 12.3 g | C1CCOS1(=O)=O | C3H6O3S
solvent | ethanol | C(C)O | C2H6O
product | N,N'-bis(3-sulfopropyl)ethylenediamine | 13.5 g | S(=O)(=O)(O)CCCNCCNCCCS(=O)(=O)O | C8H20N2O6S2
